US06346534B1
As shown in Reaction Scheme A, imidazolo[1,2-a]pyrimidone (iva) can be prepared from alpha-bromoheteroaryl ketone (R═alkyl). Thus, cyclization of bromoketone (ia) with acetyl guanidine in an appropriate solvent such as dimethylformamide at a temperature of 25-120° C. for a period of 1-72 hours to give 2-acetamidoimidazole (iia), which can be hydrolyzed with an acid such as sulfuric acid in an appropriate solvent such as water or ethanol at a temperature of 60-120° C. for a period of 2-24 hours to give 2-aminioimidazole (iiia). 2-Aminoimidazole (iiia) can be modified by cyclization with substituted acrylate in an inert solvent such as methanol, dioxane or phenylether at a temperature of 60-260° C. for a period of 0.5-16 hours to give imidazolo[1,2-a]pyrimidone (iva).

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | water | O | H2O
reactant | 2-Aminoimidazole | NC=1NC=CN1 | C3H5N3
reactant | phenylether | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | methanol | CO | CH4O
solvent | ethanol | C(C)O | C2H6O
product | imidazolo[1,2-a]pyrimidone | N=1C(CN2C1N=CC=C2)=O | C6H5N3O
